US06066658
Ethyl 4,5,6,7-tetrahydro-3-methylthio-4-oxobenzo[c]furan-1-carboxylate (4.26 g) was dissolved in chloroform (75 ml); a solution of bromine (2.73 g) in chloroform (5 ml) was added dropwise at room temperature over a period of 10 minutes. After the reaction mixture was stirred at room temperature for 30 minutes, it was washed with a 2% aqueous solution of sodium sulfite (100 ml), water, a saturated aqueous solution of sodium hydrogen carbonate and water in that order, and dried (MgSO4), after which the solvent was distilled off to yield ethyl 5-bromo-4,5,6,7-tetrahydro-3-methylthio-4-oxobenzo[c]furan-1-carboxylate (5.01 g, 89.8%), which was then recrystallized from ethyl acetate-hexane. Colorless needles. Melting point 130-131° C.

reactant | Ethyl 4,5,6,7-tetrahydro-3-methylthio-4-oxobenzo[c]furan-1-carboxylate | 4.26 g | CSC1=C2C(=C(O1)C(=O)OCC)CCCC2=O | C12H14O4S
reactant | bromine | 2.73 g | BrBr | Br2
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 5-bromo-4,5,6,7-tetrahydro-3-methylthio-4-oxobenzo[c]furan-1-carboxylate | 5.01 g, 89.8% | BrC1C(C=2C(=C(OC2SC)C(=O)OCC)CC1)=O | C12H13BrO4S
